US08431695B2
Preparation of 5-[3-(benzyloxy)-5-fluorophenyl]-7-{1-[(dimethylamino)-acetyl]piperidin-4-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
The solution of N,N-dimethylglycine (100 mg, 0.24 mmol) in DCM (1 mL) was treated with N,N-diisopropylethylamine (83 uL, 0.48 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (55 mg, 0.29 mmol) and 1-hydroxybenzotriazole (38.8 mg, 0.29 mmol) followed by 5-[3-(benzyloxy)-5-fluorophenyl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (100 mg, 0.24 mmol). The mixture was stirred at rt overnight then purified by HPLC. 20 mg (17%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 7.91 (s, 1H), 7.47-7.35 (m, 5H), 6.88 (s, 1H), 6.82 (d, 1H), 6.75 (d, 1H), 6.50 (s, 1H), 5.49 (s, 2H), 5.13 (s, 2H), 4.66 (d, 1H), 4.23 (d, 1H), 3.48 (m, 1H), 3.25-3.15 (m, 2H), 3.12-3.04 (m, 1H), 2.76 (td, 1H), 2.29 (s, 6H), 2.17 (s, 2H), 1.72-1.61 (m, 2H); LC-MS m/z [M+H]+ 503.3, RT 2.34 min.

reactant | N,N-dimethylglycine | 0.24 mmol, 100 mg | CN(CC(=O)O)C | C4H9NO2
reactant | N,N-diisopropylethylamine | 0.48 mmol, 83 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.29 mmol, 55 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.29 mmol, 38.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-[3-(benzyloxy)-5-fluorophenyl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.24 mmol, 100 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H24FN5O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-[3-(benzyloxy)-5-fluorophenyl]-7-{1-[(dimethylamino)-acetyl]piperidin-4-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 20 mg, 17% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)C(CN(C)C)=O | C28H31FN6O2
